US07507729B2
a) (rac.)-3,3,3-Trifluoro-2-hydroxy-propionic acid hydrazide
As described for example 112a, methyl-3,3,3-trifluoro-DL-lactate in butanol was reacted with hydrazine hydrate (1.2 equivalents) at rt for 16 h. The mixture was concentrated and the title compound was obtained as a light yellow oil (yield: 81%). MS: m/e=158.0 [M]+.

reactant | methyl-3,3,3-trifluoro-DL-lactate | COC(C(O)C(F)(F)F)=O | C4H5F3O3
reactant | hydrazine hydrate | 1.2 equivalents | O.NN
solvent | butanol | C(CCC)O | C4H10O
product | (rac.)-3,3,3-Trifluoro-2-hydroxy-propionic acid hydrazide | FC(C(C(=O)NN)O)(F)F | C3H5F3N2O2
